US04873236
6-Chloro-5,10-dihydro-5-[[[2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
Prepared analogously to Example 1 from 6-chloro-5-(chlorocarbonyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethanamine in a yield of 2.6% of theory. Colourless crystals, m.p. 71°-78° C., presumably a mixture of 2 diastereomers.

reactant | 6-chloro-5-(chlorocarbonyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClC1=CC=CC=2NC(C3=C(N(C21)C(=O)Cl)C=CC=C3)=O | C14H8Cl2N2O2
reactant | 2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethanamine | C(CC)N(CCC)CC1N(CCCC1)CCN | C14H31N3
product | 6-Chloro-5,10-dihydro-5-[[[2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | yield of 2.6% | ClC1=CC=CC=2NC(C3=C(N(C21)C(=O)NCCN2C(CCCC2)CN(CCC)CCC)C=CC=C3)=O | C28H38ClN5O2
